US06593326B1
4-{N-[2-Hydroxy-3-(N,N-dimethylamino)propyl]-N-methylamino}nitrobenzene
Sodium hydride (60% dispersion in oil; 290 mg, 7.2 mmol) was added portionwise over 30 minutes to a solution of 4-nitro-N-methylaniline (1.0 g, 6.6 mmol) in DMF (30 ml) at 0° C. Epibromohydrin (0.62 ml, 7.2 mmol) was added dropwise to the solution at 0° C. and the mixture was left to stand overnight. Volatile material was removed by evaporation and the residue was dissolved in a solution of dimethylamine in methanol (5.6M, 132 mmol). The solution was left to stand for 12 hours and then concentrated. The residue was dissolved in DCM (200 ml) and the solution was washed with water (3×20 ml) and saturated sodium chloride (20 ml) and dried. Evaporation gave the product as an orange solid (1.44 g, 86%). MS (MH+): 254.

reactant | Sodium hydride | 7.2 mmol, 290 mg | [H-].[Na+]
reactant | 4-nitro-N-methylaniline | 6.6 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
reactant | Epibromohydrin | 7.2 mmol, 0.62 ml | C(Br)C1CO1 | C3H5BrO
reactant | methanol | 132 mmol, 5.6M | CO | CH4O
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | dimethylamine | CNC | C2H7N
product | 4-{N-[2-Hydroxy-3-(N,N-dimethylamino)propyl]-N-methylamino}nitrobenzene | 1.44 g, 86% | OC(CN(C)C1=CC=C(C=C1)[N+](=O)[O-])CN(C)C | C12H19N3O3
